US08486952B2
2-Chloro-N-ethyl-N-methyl-7-phenyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-amine (160 mg, 0.556 mmol) was added to a solution of 4-(4-chloro-1H-imidazol-1-yl)-3-methoxyaniline (124 mg, 0.556 mmol) in THF (1.5 mL) and acetic acid (1.5 mL). The reaction mixture was stirred overnight at 80° C. The crude reaction mixture was purified by preparative HPLC. The appropriate fractions were evaporated to afford N2-(4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenyl)-N4-ethyl-N4-methyl-7-phenyl-6,7-dihydro-5H-cyclopenta[d]pyrimidine-2,4-diamine (85.3 mg, 0.171 mmol, 30.7% yield). LC-MS (M+H)+=475.2. 1H NMR (500 MHz, CDCl3) δ ppm 7.49-7.61 (1H, m), 7.38 (1H, br. s.), 7.23-7.34 (6H, m), 7.13 (1H, d, J=8.5 Hz), 7.05 (1H, s), 4.35 (1H, dd, J=9.3, 4.1 Hz), 3.69-3.82 (4H, m), 3.47 (2H, br. s.), 3.27-3.38 (4H, m), 3.11-3.23 (1H, m), 2.56-2.72 (1H, m), 2.24 (1H, ddd, J=9.0, 4.4, 4.3 Hz), 1.31 (3H, t, J=7.2 Hz).

reactant | 2-Chloro-N-ethyl-N-methyl-7-phenyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-amine | 0.556 mmol, 160 mg | ClC=1N=C(C2=C(N1)C(CC2)C2=CC=CC=C2)N(C)CC | C16H18ClN3
reactant | 4-(4-chloro-1H-imidazol-1-yl)-3-methoxyaniline | 0.556 mmol, 124 mg | ClC=1N=CN(C1)C1=C(C=C(N)C=C1)OC | C10H10ClN3O
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
solvent | acetic acid | 1.5 mL | C(C)(=O)O | C2H4O2
product | N2-(4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenyl)-N4-ethyl-N4-methyl-7-phenyl-6,7-dihydro-5H-cyclopenta[d]pyrimidine-2,4-diamine | 0.171 mmol, 85.3 mg, 30.7% yield | ClC=1N=CN(C1)C1=C(C=C(C=C1)NC=1N=C(C2=C(N1)C(CC2)C2=CC=CC=C2)N(C)CC)OC | C26H27ClN6O
